US07265104B2
To a solution of 1,2-diamino-4,5-difluorobenzene (4.0 g, 27.75 mmol) in xylenes (50 mL) at 140° C. was added acetic acid (200 μL) followed by a solution of 3,3-diethoxyacrylic acid ethyl ester (5.22 g, 27.75 mmol) in xylenes (25 mL) over 1 hour. The reaction was heated at 140° C. for 2 hours, was cooled to room temperature, and was concentrated. The residue was triturated in hexanes to provide 5.38 g of 4-ethoxy-7,8-difluoro-1,3-dihydro-benzo[b][1,4]diazepin-2-one. 1H NMR (CDCl3) δ 7.05 (q, 1H), 6.87 (q, 1H), 4.29 (q, 2H), 3.18 (s, 2H), 1.35 (t, 3H).

reactant | 1,2-diamino-4,5-difluorobenzene | 27.75 mmol, 4.0 g | NC1=C(C=C(C(=C1)F)F)N | C6H6F2N2
reactant | 3,3-diethoxyacrylic acid ethyl ester | 27.75 mmol, 5.22 g | C(C)OC(C=C(OCC)OCC)=O | C9H16O4
solvent | acetic acid | 200 μL | C(C)(=O)O | C2H4O2
product | 4-ethoxy-7,8-difluoro-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 5.38 g | C(C)OC1=NC2=C(NC(C1)=O)C=C(C(=C2)F)F | C11H10F2N2O2
